US08877782B2
(3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (500 mg, 1.6 mmol) in DMF (10 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (569 mg, 1.8 mmol), N,N-diisopropyl ethyl amine (1.38 mL, 8.1 mmol) and (3-amino-piperidin-1-yl)-acetic acid ethyl ester hydrochloride (459 mg, 1.8 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1 and then dichloromethane:methanol=9:1) afforded the title compound (622 mg, 81%) as a light brown gum. MS: m/e=479.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 1.6 mmol, 500 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.8 mmol, 569 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 8.1 mmol, 1.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3-amino-piperidin-1-yl)-acetic acid ethyl ester hydrochloride | 1.8 mmol, 459 mg | Cl.C(C)OC(CN1CC(CCC1)N)=O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester | 622 mg, 81% | C(C)OC(CN1CC(CCC1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C26H30N4O5
